US08445501B2
trans-(4-Cyclopropylcarbamoyl-cyclohexyl)-carbamic acid tert-butyl ester
To a stirred mixture of trans-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid (6.1 g, 25.0 mmol) and cyclopropylamine (1.9 mL, 27.5 mmol) in dichloromethane (125 mL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.3 g; 27.5 mmol) is added in one portion. The reaction is stirred at ambient temperature for 48 hours. The solvent is evaporated and the crude is stirred in ice-cold 1N hydrochloric acid (100 mL) for 30 min. The solid product is isolated by suction filtration, washed with small portions of water and recrystallized from ethanol/water to deliver 5.2 g of the title compound as colorless solid.

reactant | trans-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid | 25.0 mmol, 6.1 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | cyclopropylamine | 27.5 mmol, 1.9 mL | C1(CC1)N | C3H7N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 27.5 mmol, 5.3 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
product | trans-(4-Cyclopropylcarbamoyl-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(NC1CC1)=O)=O | C15H26N2O3
